* C:\FOSSEE\eSim\library\SubcircuitLibrary\alu_subcircuit\alu_subcircuit.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/23/26 14:07:33

* Sheet Name: /

a1 [pin_a7 pin_a6 pin_a5 pin_a4 pin_a3 pin_a2 pin_a1 pin_a0] [pin_b7 pin_b6 pin_b5 pin_b4 pin_b3 pin_b2 pin_b1 pin_b0] [pin_sel3 pin_sel2 pin_sel1 pin_sel0] [pin_out7 pin_out6 pin_out5 pin_out4 pin_out3 pin_out2 pin_out1 pin_out0] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_] [pin_a7 pin_a6 pin_a5 pin_a4 pin_a3 pin_a2 pin_a1 pin_a0] u3
a3 [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_] [pin_b7 pin_b6 pin_b5 pin_b4 pin_b3 pin_b2 pin_b1 pin_b0] u4
a4 [net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_] [pin_sel3 pin_sel2 pin_sel1 pin_sel0] u5
a5 [pin_out7 pin_out6 pin_out5 pin_out4 pin_out3 pin_out2 pin_out1 pin_out0] [net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ net-_u6-pad15_ net-_u6-pad16_] u6

U2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ PORT
U7  net-_u6-pad15_ net-_u6-pad16_ PORT

.model u1 alu_8bit(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 )
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
.model u5 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 )
.model u6 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 )

.tran 10n 10u

* Control Statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
