* c:\fossee\esim\library\subcircuitlibrary\alu_subcircuit\alu_subcircuit.cir

a1 [pin_a7 pin_a6 pin_a5 pin_a4 pin_a3 pin_a2 pin_a1 pin_a0] [pin_b7 pin_b6 pin_b5 pin_b4 pin_b3 pin_b2 pin_b1 pin_b0] [pin_sel3 pin_sel2 pin_sel1 pin_sel0] [pin_out7 pin_out6 pin_out5 pin_out4 pin_out3 pin_out2 pin_out1 pin_out0] u1
a2 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_] [pin_a7 pin_a6 pin_a5 pin_a4 pin_a3 pin_a2 pin_a1 pin_a0] u3
a3 [net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_] [pin_b7 pin_b6 pin_b5 pin_b4 pin_b3 pin_b2 pin_b1 pin_b0] u4
a4 [net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_] [pin_sel3 pin_sel2 pin_sel1 pin_sel0] u5
a5 [pin_out7 pin_out6 pin_out5 pin_out4 pin_out3 pin_out2 pin_out1 pin_out0] [net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ net-_u6-pad15_ net-_u6-pad16_] u6
* u2  net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u2-pad6_ net-_u2-pad7_ net-_u2-pad8_ net-_u2-pad9_ net-_u2-pad10_ net-_u2-pad11_ net-_u2-pad12_ net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u2-pad21_ net-_u2-pad22_ net-_u2-pad23_ net-_u2-pad24_ net-_u2-pad25_ net-_u2-pad26_ port
* u7  net-_u6-pad15_ net-_u6-pad16_ port

.tran 10n 10u

* Control Statements
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
