* c:\users\chaitanya\esim-workspace\alu_test\alu_test.cir

.include alu_subcircuit.sub
x1 a7 a6 a5 a4 a3 a2 a1 a0 b7 b6 b5 b4 b3 b2 b1 b0 sel3 sel2 sel1 sel0 out7 out6 out5 out4 out3 out2 out1 out0 alu_subcircuit
v2  a0 gnd pulse(0 0 0 0 0 160n 200n)
v5  a1 gnd pulse(5 5 0 0 0 160n 200n)
v7  a2 gnd pulse(0 0 0 0 0 160n 200n)
v9  a3 gnd pulse(5 5 0 0 0 160n 200n)
v11  a4 gnd pulse(0 0 0 0 0 160n 200n)
v14  a5 gnd pulse(0 0 0 0 0 160n 200n)
v16  a6 gnd pulse(0 0 0 0 0 160n 200n)
v18  a7 gnd pulse(0 0 0 0 0 160n 200n)
v1  b7 gnd pulse(0 0 0 0 0 160n 200n)
v3  b6 gnd pulse(0 0 0 0 0 160n 200n)
v4  b5 gnd pulse(0 0 0 0 0 160n 200n)
v6  b4 gnd pulse(0 0 0 0 0 160n 200n)
v8  b3 gnd pulse(0 0 0 0 0 160n 200n)
v10  b2 gnd pulse(0 0 0 0 0 160n 200n)
v12  b1 gnd pulse(5 5 0 0 0 160n 200n)
v13  b0 gnd pulse(0 0 0 0 0 160n 200n)
v15  sel3 gnd pulse(0 5 80n 0 0 80n 160n)
v17  sel2 gnd pulse(0 5 40n 0 0 40n 80n)
v19  sel1 gnd pulse(0 5 20n 0 0 20n 40n)
v20  sel0 gnd pulse(0 5 10n 0 0 10n 20n)
* u21  out7 plot_v1
* u22  out6 plot_v1
* u23  out5 plot_v1
* u24  out4 plot_v1
* u25  out3 plot_v1
* u26  out2 plot_v1
* u27  out1 plot_v1
* u28  out0 plot_v1
* u19  a7 plot_v1
* u16  a6 plot_v1
* u14  a5 plot_v1
* u12  a4 plot_v1
* u9  a3 plot_v1
* u7  a2 plot_v1
* u5  a1 plot_v1
* u2  a0 plot_v1
* u20  sel0 plot_v1
* u18  sel1 plot_v1
* u17  sel2 plot_v1
* u15  sel3 plot_v1
* u13  b0 plot_v1
* u11  b1 plot_v1
* u10  b2 plot_v1
* u8  b3 plot_v1
* u6  b4 plot_v1
* u4  b5 plot_v1
* u3  b6 plot_v1
* u1  b7 plot_v1
.tran 1e-09 160e-09 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
set xbrushwidth =3
plot v(out7)+6 v(out6)+12 v(out5)+18 v(out4)+24 v(out3)+30 v(out2)+36 v(out1)+42 v(out0)

plot v(a7)+6v(a6)+12v(a5)+18v(a4)+24v(a3)+30v(a2)+36v(a1)+42v(a0)+48v(b7)+54v(b6)+60v(b5)+66v(b4)+72v(b3)+78v(b2)+84v(b1)+90v(b0)+96v(sel3)+102v(sel2)+108v(sel1)+114v(sel0)
.endc
.end
